US05324726
1,3-Dihydro-3-(5-carboxymethyloxyindole-2-carbonylamino)-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one
1,3-Dihydro-3-(5-hydroxyindole-2-carbonylamino)-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one (0.1 g, 0.236 mmol) and iodoacetic acid (0.044 g, 0.236 mmol) were combined in dry DMF (2 ml) and treated with sodium hydride (18.8 mg of a 60% suspension in mineral oil; 0.472 mmol). The mixture was stirred at ambient temperature for 1 hour, then evaporated to dryness in vacuo. To the residue were added water, dilute sodium bisulfite solution, then saturated sodium bicarbonate. The aqueous phase was washed with EtOAc, made acidic with 6N HCl, and extracted with EtOAc. The acid layer extract was dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was chromatographed on silica gel eluted with 180:10:1:1 of CH2Cl2 :MeOH:HOAc:H2O. The product fractions were evaporated to dryness in vacuo and the residue triturated with ether to give the title compound which was dried in vacuo at 90° C. overnight: (mp 150°-180° C. (↑)).

reactant | 1,3-Dihydro-3-(5-hydroxyindole-2-carbonylamino)-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.236 mmol, 0.1 g | OC=1C=C2C=C(NC2=CC1)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C25H20N4O3
reactant | iodoacetic acid | 0.236 mmol, 0.044 g | ICC(=O)O | C2H3IO2
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1,3-Dihydro-3-(5-carboxymethyloxyindole-2-carbonylamino)-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | C(=O)(O)COC=1C=C2C=C(NC2=CC1)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C27H22N4O5
